US07060822B1
3,5-Dimethyl-4-(2-diethylaminoacetyl)pyrrole-2-carboxaldehyde
Diethylamine (5 ml) was added to a solution of 4-(2-Chloroacetyl)-3,5-dimethylpyrrole-2-carboxaldehyde (1 g, 5 mmol) in THF (20 ml). The mixture was stirred at room temperature for 24 h. The solvent was removed under reduced pressure and the residue was treated with water, NaHCO3 (5%) and extracted with dichloromethane. After drying and filtering, the solvent was removed and the residue was used without further purification.

reactant | Diethylamine | 5 ml | C(C)NCC | C4H11N
reactant | 4-(2-Chloroacetyl)-3,5-dimethylpyrrole-2-carboxaldehyde | 5 mmol, 1 g | ClCC(=O)C=1C(=C(NC1C)C=O)C | C9H10ClNO2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3,5-Dimethyl-4-(2-diethylaminoacetyl)pyrrole-2-carboxaldehyde | CC1=C(NC(=C1C(CN(CC)CC)=O)C)C=O | C13H20N2O2
